US20010000345A1
To a solution of 401 mg of 7-aminoquinoline in 15 mL of glacial acetic acid are added 913 mg of sodium acetate followed by a solution of 0.14 mL of bromine in 5 mL of glacial acetic acid. The resulting yellow slurry is stirred at room temperature for 2 hours. The brown mixture is rotary evaporated and the residue is diluted with water and ethyl acetate. The mixture is basified using 1 N sodium hydroxide and decanted. The organic layer is washed with water followed by brine. The combined aqueous layers are extracted with ethyl acetate; the combined organic layers are dried over magnesium sulfate and rotary evaporated. The residue is purified by flash column chromatography on silica gel, eluting with 20% to 50% ethyl acetatelhexanes followed by recrystallization from hexanesimethylene chloride to provide 521 mg of 7-amino-8-bromoquinoline as a pale brown solid.

reactant | 7-aminoquinoline | 401 mg | NC1=CC=C2C=CC=NC2=C1 | C9H8N2
reactant | sodium acetate | 913 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.14 mL | BrBr | Br2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 7-amino-8-bromoquinoline | 521 mg | NC1=CC=C2C=CC=NC2=C1Br | C9H7BrN2
